US07935688B2
(3) Synthesis of [5-(4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-hydroxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl)-pyridin-3-yl]-acetic Acid
A 2 N sodium hydroxide aqueous solution (0.16 mL) was added to a solution of [5-(4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-hydroxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester (Example 80-(2); 31.9 mg, 0.0539 mmol) in methanol (1.0 mL), and the mixture was stirred for five hours. A saturated aqueous ammonium chloride solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by thin layer silica gel chromatography (8% methanol/dichloromethane) to give the title compound (20.8 mg, 66%).

reactant | sodium hydroxide | 2 N, 0.16 mL | [OH-].[Na+]
reactant | [5-(4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-hydroxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl)-pyridin-3-yl]-acetic acid methyl ester | 0.0539 mmol, 31.9 mg | COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#CC(C(F)(F)F)(C(F)(F)F)O)C)CC)C)=O | C32H31F6NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 1.0 mL | CO | CH4O
product | [5-(4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-hydroxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl)-pyridin-3-yl]-acetic Acid | 20.8 mg, 66% | C(C)C(CC)(C1=CC(=C(C=C1)C#CC(C(F)(F)F)(C(F)(F)F)O)C)C1=CC(=C(C=C1)C=1C=C(C=NC1)CC(=O)O)C | C31H29F6NO3
